US04054570
The starting material is prepared as follows: A mixture of 15 g of 4-(α-hydroxy-α-methyl-4-fluorobenzyl)- pyridine, 8.2 ml of benzyl bromide and 100 ml of acetonitrile is refluxed overnight. The solvent is evaporated and the residue recrystallized from isopropanol-diethyl ether, to yield the desired 1-benzyl-4-(α-hydroxy-α-methyl-4-fluorobenzyl)-pyridinium bromide melting at 175° with decomposition.

reactant | 4-(α-hydroxy-α-methyl-4-fluorobenzyl)- pyridine | 15 g | OC(C1=CC=C(C=C1)F)(C)C1=CC=NC=C1 | C13H12FNO
reactant | benzyl bromide | 8.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-benzyl-4-(α-hydroxy-α-methyl-4-fluorobenzyl)-pyridinium bromide | [Br-].C(C1=CC=CC=C1)[N+]1=CC=C(C=C1)C(C1=CC=C(C=C1)F)(C)O | InChI=1S/C20H19FNO.BrH/c1-20(23,17-7-9-19(21)10-8-17)18-11-13-22(14-12-18)15-16-5-3-2-4-6-16;/h2-14,23H,15H2,1H3;1H/q+1;/p-1
